US05047540
To a solution of 3.368 g (10.22 mM) of 3-hexadecyloxy-2-methoxypropylamine IVa3 in 35 ml of dichloromethane and 1.85 ml (13.29 mM) of triethylamine is added 1.99 g (11.24 mM) of 3-chloropropanesulfonyl chloride with ice-cooling and the mixture is stirred at room temperature for 4 hours and then heated for 30 minutes with stirring. After the solvent is evaporated, the residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (3:1) mixture as an eluent. The product is recrystallized form methanol to give 4.15 g (8.827 mM) of 3-(3-chloropropylsulfonylamino)-1-hexadecyloxy-2-methoxypropane IIIa3 as a colorless powder in 86% yield.

reactant | 3-hexadecyloxy-2-methoxypropylamine | 10.22 mM, 3.368 g | C(CCCCCCCCCCCCCCC)OCC(CN)OC | C20H43NO2
reactant | triethylamine | 13.29 mM, 1.85 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropanesulfonyl chloride | 11.24 mM, 1.99 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 3-(3-chloropropylsulfonylamino)-1-hexadecyloxy-2-methoxypropane | 8.827 mM, 4.15 g, 86% yield | ClCCCS(=O)(=O)NCC(COCCCCCCCCCCCCCCCC)OC | C23H48ClNO4S
